US04847256
A mixture of 25.0 g of pivaloyl acetonitrile in 50 ml of N,N-dimethylformamide dimethyl acetal was stirred at room temperature for 8 hours under argon and then the solvent was evaporated and n-hexane was added with stirring. The product was collected by filtration to give 34.6 g of 2-[(dimethylamino)methylene]-4,4-dimethyl-3-oxopentanenitrile.

reactant | pivaloyl acetonitrile | 25.0 g | C(C(C)(C)C)(=O)CC#N | C7H11NO
reactant | N,N-dimethylformamide dimethyl acetal | 50 ml | COC(N(C)C)OC | C5H13NO2
product | 2-[(dimethylamino)methylene]-4,4-dimethyl-3-oxopentanenitrile | 34.6 g | CN(C)C=C(C#N)C(C(C)(C)C)=O | C10H16N2O
